### PR TITLE
equivalence connected <-> be an interval

### PR DESCRIPTION
**Pull request by affeldt-aist**
based on PR #279 @CohenCyril

### CODE REVIEW

File: theories/normedtype.v [hunk 1]
```diff
@@ -2313,6 +2316,22 @@ split=> iE x y Ex Ey z /andP[].
 by move=> xz zy; apply (iE _ _ Ex Ey); rewrite (ltW xz) (ltW zy).
 Qed.
 
+Lemma interval_is_interval (i : interval R) : is_interval [set x | x \in i].
```
Comment (CohenCyril) [inline theories/normedtype.v:2319]: The most important lemma is:
`is_intervalP X : is_interval X <-> exists i, X = [set x | x \in i]`

File: theories/normedtype.v [hunk 2]
```diff
@@ -2212,97 +2265,157 @@ Hint Extern 0 (closed _) => now apply: closed_ge : core.
...
+by rewrite (le_trans ax (ltW _)) // (lt_trans _ yb).
+by rewrite (le_trans ax (ltW _)) // (le_trans (ltW _) yb).
+by rewrite (le_trans ax (ltW _)).
+by rewrite (lt_trans _ yb).
+by rewrite (le_trans (ltW _) yb).
+Qed.
+
+End interval.
+
+Lemma connected_convex (R : realType) (E : set R^o) :
```
Comment (CohenCyril) [inline theories/normedtype.v:2335]:
```suggestion
Lemma connected_intervalP (R : realType) (E : set R^o) :
```

File: theories/normedtype.v [hunk 3]
```diff
@@ -2156,6 +2158,57 @@ Grab Existential Variables. all: end_near. Qed.
...
+    rewrite negb_and -leNgt => /orP[//|sAy]; rewrite leNgt.
+    apply: contra sAy => sAey; rewrite lt_neqAle sup_upper_bound // andbT.
+    by apply/eqP; apply: contra_not AsupA => <-.
+  by rewrite leNgt => /negP; apply; rewrite ltr_subl_addl ltr_addr.
+exists x; split => //; first by rewrite lt_eqF.
+apply supAeU; rewrite /ball /= ltr_distl (addrC x e%:num) -ltr_subl_addl sAex.
+by rewrite andbT (le_lt_trans _ xsA) // ler_subl_addl ler_addr.
+Qed.
+
+Lemma near_nbhs_inv (R : archiFieldType) (z : R) (e : {posnum R}) :
```
Comment (CohenCyril) [inline theories/normedtype.v:2179]: The name looks wrong. Maybe `near_infty_natSinv_lt`

File: theories/normedtype.v [hunk 4]
```diff
@@ -2212,97 +2272,309 @@ Hint Extern 0 (closed _) => now apply: closed_ge : core.
...
-have : x <= b by rewrite (itvP abx).
-apply: le_trans; rewrite -ler_subr_addl le_minl; apply/orP; right.
-by rewrite ler_pdivr_mulr // mulrDr mulr1 ler_addl; apply: ltW.
-Qed.
-
-Lemma segment_closed (a b : R) : closed [set x : R^o | x \in `[a, b]].
+Lemma connected_segment (a b : R) : connected [set x : R^o | x \in `[a, b]].
+Proof. exact/connected_intervalP/interval_is_interval. Qed.
+
+Lemma closed_segment (a b : R) : closed [set x : R^o | x \in `[a, b]].
```
Comment (CohenCyril) [inline theories/normedtype.v:2570]: Should be `segment_closed`

File: theories/normedtype.v [hunk 5]
```diff
@@ -2212,97 +2272,309 @@ Hint Extern 0 (closed _) => now apply: closed_ge : core.
...
-  by rewrite [X in _ < X]splitr ltr_addl.
-rewrite /mkset inE; apply/andP; split.
-  by apply: ler_paddr => //; have := Az; rewrite AeabB => - [/itvP->].
-have : x <= b by rewrite (itvP abx).
-apply: le_trans; rewrite -ler_subr_addl le_minl; apply/orP; right.
-by rewrite ler_pdivr_mulr // mulrDr mulr1 ler_addl; apply: ltW.
-Qed.
-
-Lemma segment_closed (a b : R) : closed [set x : R^o | x \in `[a, b]].
+Lemma connected_segment (a b : R) : connected [set x : R^o | x \in `[a, b]].
```
Comment (CohenCyril) [inline theories/normedtype.v:2567]: Should be `segment_connected`

File: theories/normedtype.v [hunk 6]
```diff
@@ -2212,97 +2272,309 @@ Hint Extern 0 (closed _) => now apply: closed_ge : core.
...
+  ~ X (sup X) -> X `<=` [set r | r < sup X].
+Proof.
+move=> ubX XsupX r Xr; rewrite /mkset lt_neqAle sup_ub // andbT.
+by apply/negP => /eqP supXr; move: XsupX; rewrite -supXr.
+Qed.
+
+Section interval_realType.
+Variable R : realType.
+
+Lemma unbounded_setT (X : set R) : is_interval X ->
```
Comment (CohenCyril) [inline theories/normedtype.v:2390]: The name should start with `interval_`

File: theories/normedtype.v [hunk 7]
```diff
@@ -2212,97 +2272,309 @@ Hint Extern 0 (closed _) => now apply: closed_ge : core.
...
+  ~ has_lbound X -> ~ has_ubound X -> X = setT.
+Proof.
+move=> iX lX uX; rewrite predeqE => x; split => // _.
+move/has_lbPn : lX => /(_ x) [y Xy xy].
+move/has_ubPn : uX => /(_ x) [z Xz xz].
+by apply: (iX _ _ Xy Xz); rewrite xy xz.
+Qed.
+
+Lemma left_unbounded_interior (X : set R^o) : is_interval X ->
```
Comment (CohenCyril) [inline theories/normedtype.v:2399]: The name should start with `interval_`

File: theories/normedtype.v [hunk 8]
```diff
@@ -2212,97 +2272,309 @@ Hint Extern 0 (closed _) => now apply: closed_ge : core.
...
+Proof.
+move=> iX lX uX; rewrite eqEsubset; split; first exact: right_bounded_interior.
+rewrite -(open_subsetE _ (@open_lt _ _)) => r rsupX.
+move/has_lbPn : lX => /(_ r)[y Xy yr].
+have hsX : has_sup X by split => //; exists y.
+have /(sup_adherent hsX)[e Xe] : 0 < sup X - r by rewrite subr_gt0.
+by rewrite opprB addrCA subrr addr0 => re; apply (iX _ _ Xy Xe); rewrite yr re.
+Qed.
+
+Lemma right_unbounded_interior (X : set R^o) : is_interval X ->
```
Comment (CohenCyril) [inline theories/normedtype.v:2410]: The name should start with `interval_`

File: theories/normedtype.v [hunk 9]
```diff
@@ -2212,97 +2272,309 @@ Hint Extern 0 (closed _) => now apply: closed_ge : core.
...
+Proof.
+move=> iX lX uX; rewrite eqEsubset; split; first exact: left_bounded_interior.
+rewrite -(open_subsetE _ (@open_gt _ _)) => r infXr.
+move/has_ubPn : uX => /(_ r)[y Xy yr].
+have hiX : has_inf X by split => //; exists y.
+have /(inf_adherent hiX)[e Xe] : 0 < r - inf X by rewrite subr_gt0.
+by rewrite addrCA subrr addr0 => er; apply: (iX _ _ Xe Xy); rewrite yr er.
+Qed.
+
+Lemma bounded_interior (X : set R^o) : is_interval X ->
```
Comment (CohenCyril) [inline theories/normedtype.v:2421]: The name should start with `interval_`

File: theories/normedtype.v [hunk 10]
```diff
@@ -2212,97 +2272,309 @@ Hint Extern 0 (closed _) => now apply: closed_ge : core.
...
+
+Lemma closed_segment (a b : R) : closed [set x : R^o | x \in `[a, b]].
 Proof.
 have -> : [set x | x \in `[a, b]] = [set x | x >= a] `&` [set x | x <= b].
   by rewrite predeqE => ?; rewrite /= inE; split=> [/andP [] | /= [->]].
 by apply closedI; [apply closed_ge | apply closed_le].
 Qed.
 
-Lemma segment_compact (a b : R) : compact [set x : R^o | x \in `[a, b]].
+Lemma compact_segment (a b : R) : compact [set x : R^o | x \in `[a, b]].
```
Comment (CohenCyril) [inline theories/normedtype.v:2577]: Nop, this name was allright.

File: CHANGELOG_UNRELEASED.md [hunk 11]
```diff
@@ -11,6 +11,17 @@
 - in `ereal.v`:
   + definition `mule` and its notation `*` (scope `ereal_scope`)
   + definition `abse` and its notation `` `| | `` (scope `ereal_scope`)
+- in `normedtype.v`:
+  + lemmas `closure_sup`, `near_infty_natSinv_lt`, `limit_pointP`
+  + lemmas `closure_gt`, `closure_lt`
+  + definition `is_interval`, `is_intervalPle`, `interval_is_interval`
+  + lemma `connected_intervalP`
+  + lemma `open_segment`
```
Comment (CohenCyril) [inline CHANGELOG_UNRELEASED.md:19]:
```suggestion
  + lemmas `interval_open` and `segment_closed`
```

File: theories/normedtype.v [hunk 12]
```diff
@@ -2203,6 +2256,20 @@ rewrite [X in closed X](_ : (eq^~ _) = ~` (xpredC (eq_op^~ y))).
 by rewrite predeqE /setC => x /=; rewrite (rwP eqP); case: eqP; split.
 Qed.
 
+Lemma segment_open a b : open [set x : R^o | x \in `]a, b[].
```
Comment (CohenCyril) [inline theories/normedtype.v:2259]: This is not a segment...
```suggestion
Lemma interval_open a b : open [set x : R^o | x \in `]a, b[].
```

Comment (CohenCyril) [reply theories/normedtype.v:2259]: I would generalize it to the case where `a` and/or `b` are infinities

File: theories/normedtype.v [hunk 13]
```diff
@@ -2203,6 +2256,20 @@ rewrite [X in closed X](_ : (eq^~ _) = ~` (xpredC (eq_op^~ y))).
...
+Proof.
+have -> : [set x | a < x < b] = [set x | a < x] `&` [set x | x < b].
+  by rewrite predeqE => r; rewrite /mkset; split => [/andP[? ?] //|[-> ->]].
+by apply openI; [exact: open_gt | exact: open_lt].
+Qed.
+
+Lemma segment_closed a b : closed [set x : R^o | x \in `[a, b] ].
```
Comment (CohenCyril) [inline theories/normedtype.v:2266]: There could also be a more general variant `interval_closed` covering the cases where `a` and/or `b` are infinities

**Review by CohenCyril — APPROVED** [review]
LGTM
